US06258812B1
A: 1-(3-Phenoxyanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 256 mg (1.00 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 556 mg (3.00 mmol) 4-phenoxyaniline (Aldrich) is heated for 2 h at 90° C. The melt is cooled and stirred with 6 ml NH3 solution (10% in water: or 10 ml sat. NaHCO3 solution) and 15 ml dichloromethane/methanol 50:1 for 30 min. The aqueous phase is then separated off and extracted again with dichloromethane. The organic phase is dried (Na2SO4), concentrated by evaporation, and chromatographed (SiO2; ethyl acetate→ethyl acetate/CH3OH 19:1→10:1). Crystallization from acetonitrile yields the title compound: m.p.: 186-1 89° C.; Anal. calc. (C26H21N4O) C 77.02%, H 5.22%, N 13.82%; found C 77.2%, H 4.9%, N 13.8%.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.00 mmol, 256 mg | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-phenoxyaniline | 3.00 mmol, 556 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | NH3 | 6 ml | N | H3N
solvent | dichloromethane methanol | 15 ml | ClCCl.CO
product | 1-(3-Phenoxyanilino)-4-(4-pyridylmethyl)phthalazine | O(C1=CC=CC=C1)C=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1 | C26H20N4O
